* source LF444
X_U1         N00384 N00104 VCC VEE N00104 LF444
V_V1         N00384 0  
+SIN 0 1 1K 0 0 0
V_V2         0 VEE 12
V_V3         VCC 0 12
